US07375134B2
Step 2: Preparation of (2S)-2-[1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentan-1-ol
Butyllithium (41 mL of a 2.0M cyclohexane solution) was added at −30° C. to a solution of 1,4-dibromobenzene (19.3 g, 81.89 mmol) in ether (250 mL) over 10 minutes. After 1 hour, a solution of (4S)-4-propyl-2-trifluoromethyloxazolidine (3.00 g, 16.38 mmol) was added in ether (50 mL) over 30 minutes via an addition funnel. After 90 minutes of stirring, water (100 mL) was added. The organic phase was washed with brine (100 mL), dried over MgSO4, filtered, and evaporated to dryness. The residue was purified on a plug of silica gel (10-30% ethyl acetateihexane elution). An approximately 2:1 mixture of diastomers of (2S)-2-[1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentan-1-ol at the CF3 residue was observed based on the norvaline methyl triplet at 0.98 ppm (1H NMR).

reactant | Butyllithium | C(CCC)[Li]
reactant | cyclohexane | 2.0M | C1CCCCC1 | C6H12
reactant | 1,4-dibromobenzene | 81.89 mmol, 19.3 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | (4S)-4-propyl-2-trifluoromethyloxazolidine | 16.38 mmol, 3.00 g | C(CC)[C@@H]1NC(OC1)C(F)(F)F | C7H12F3NO
solvent | ether | 250 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | (2S)-2-[1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentan-1-ol | BrC1=CC=C(C=C1)C(C(F)(F)F)N[C@H](CO)CCC | C13H17BrF3NO
